US04294847
A solution of sodium (29.8 g, 1.296 mol) in dry, absolute ethanol (1400 ml.) was added to 7-acetoxy-4-methyl-8-(2', 3'-dibromopropyl)coumarin (108.1 g, 0.259 mol). The mixture was allowed to reflux for one hour and 45 minutes with magnetic stirring. The cooled mixture was poured into a mixture of ice (2800 g) and 3.5% HCl (2800 ml.) and stirred. A yellow precipitate was collected by filtration, washed first with three portions (600 ml.) of 5% NaOH, second with one portion (600 ml.) of 3.5% HCl, third with three portions (600 ml.) of water, and then dried in vacuo to obtain crude 4,8-dimethylisopsoralen (48.6 g, 87.6% yield, mp. 160°-174° C.). Recrystallization from 95% ethanol (1500 ml.) gave the pure product (33.7 g, 68% recovery, 61% yield) mp. 176°-178° C. (lit.2 182°-183° C.).

reactant | sodium | 1.296 mol, 29.8 g | [Na] | Na
reactant | 7-acetoxy-4-methyl-8-(2', 3'-dibromopropyl)coumarin | 0.259 mol, 108.1 g | C(C)(=O)OC1=CC=C2C(=CC(OC2=C1CC(CBr)Br)=O)C | C15H14Br2O4
reactant | HCl | 2800 ml | Cl | ClH
solvent | ethanol | 1400 ml | C(C)O | C2H6O
product | 4,8-dimethylisopsoralen | 48.6 g, 87.6% yield | CC1=CC(=O)OC2=C1C=CC3=C2C=C(O3)C | C13H10O3
